US07538112B2
Step 2: 2-(3,4-Dichlorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A solution of 10-(benzyloxy)-4,8-dimethyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (0.05 g, 0.15 mmol) in DMF (1 mL) was treated with sodium hydride (5 mg, 0.17 mmol). The resultant mixture was stirred at room temperature for 5 minutes. After bubbling ceased, 3,4-dichlorobenzyl chloride (0.02 mL, 0.16 mmol) was added and the reaction mixture was stirred at room temperature for overnight. The reaction was then treated with 33% HBr solution in acetic acid (2 mL) and stirred at room temperature overnight. The reaction mixture was concentrated under vacuum. The residue was treated with water and the solid precipitated was collected by filtration to provide the titled compound as white solid.

reactant | 10-(benzyloxy)-4,8-dimethyl-7,8-dihydropyrazino[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 0.15 mmol, 0.05 g | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NNC(C31)=O)C)CCN(C2=O)C | C18H18N4O3
reactant | sodium hydride | 0.17 mmol, 5 mg | [H-].[Na+]
reactant | 3,4-dichlorobenzyl chloride | 0.16 mmol, 0.02 mL | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | HBr | Br | BrH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-(3,4-Dichlorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]-pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)O)C)C=CC1Cl | C18H16Cl2N4O3
